US07820658B2
C-[2-amino-6-(2,4-dimethyl-phenyl)-5-formyl-pyrimidin-4-ylsulfanyl]-N-cyclopropyl-methanesulfonamide
Sodium hydrogen carbonate was added to a solution of 2-Amino-4-(2,4-dimethylphenyl)-6-mercapto-pyrimidine-5-carbaldehyde in DMF and the suspension stirred. C-bromo-N-cyclopropyl-methane sulphonamide was added, and the mixture heated, ˜85° C., for ˜3 hrs. The resulting suspension was allowed to cool and ethyl acetate added, the mixture was washed with water and saturated aqueous sodium chloride solution. The solution was dried over anhydrous sodium sulphate and concentrated to a pale yellow solid. The crude solid was purified by column chromatography on silica eluting with mixtures of ethyl acetate and hexane.

reactant | Sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 2-Amino-4-(2,4-dimethylphenyl)-6-mercapto-pyrimidine-5-carbaldehyde | NC1=NC(=C(C(=N1)C1=C(C=C(C=C1)C)C)C=O)S | C13H13N3OS
reactant | C-bromo-N-cyclopropyl-methane sulphonamide | BrCS(=O)(=O)NC1CC1 | C4H8BrNO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | C-[2-amino-6-(2,4-dimethyl-phenyl)-5-formyl-pyrimidin-4-ylsulfanyl]-N-cyclopropyl-methanesulfonamide | NC1=NC(=C(C(=N1)SCS(=O)(=O)NC1CC1)C=O)C1=C(C=C(C=C1)C)C | C17H20N4O3S2
